US07153859B2
8,9-Dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline (the compound obtained in Example 1-(6)) (3.2 g) is dissolved in methylene chloride (20 ml), and thereto are added chloromethyl methylsulfide (8.4 ml), triethylamine (3.5 ml) and 4-(dimethylamino)pyridine (61 mg), and the mixture is stirred at room temperature overnight. The reaction solution is washed with a saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography on silica gel (eluent; chloroform:ethyl acetate=9:1). The resulting precipitates (115 mg) are dissolved in chloroform, and thereto is added a 4M hydrochloric acid in ethyl acetate, and the solvent is removed by evaporation under reduced pressure. The residue is recrystallized from ethanol to give 8,9-dimethoxy-2-(methylthiomethyl)-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline dihydrochloride (60 mg).

reactant | 8,9-Dimethoxy-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline | COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCNC3)OC | C20H24N2O2
reactant | chloromethyl methylsulfide | 8.4 ml | ClCSC | C2H5ClS
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 8,9-dimethoxy-2-(methylthiomethyl)-6-phenyl-1,3,4,6,11,11a-hexahydro-2H-pyrazino[1,2-b]isoquinoline dihydrochloride | 60 mg | Cl.Cl.COC=1C(=CC=2CC3N(C(C2C1)C1=CC=CC=C1)CCN(C3)CSC)OC | InChI=1S/C22H28N2O2S.2ClH/c1-25-20-12-17-11-18-14-23(15-27-3)9-10-24(18)22(16-7-5-4-6-8-16)19(17)13-21(20)26-2;;/h4-8,12-13,18,22H,9-11,14-15H2,1-3H3;2*1H
